US04692465
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(4-benzyloxyphenyl)-2-(2-hydroxyethoxy)ethanamine
The title compound was prepared as an oil from 1-(4-carbomethoxymethoxyphenyl)propan-2-one (4.52 g) and 2-(4-benzyloxyphenyl)-2-(2-hydroxyethoxy)ethanamine (5.84 g) as described in Example 1.

reactant | 1-(4-carbomethoxymethoxyphenyl)propan-2-one | 4.52 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)=O | C12H14O4
reactant | 2-(4-benzyloxyphenyl)-2-(2-hydroxyethoxy)ethanamine | 5.84 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CN)OCCO | C17H21NO3
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(4-benzyloxyphenyl)-2-(2-hydroxyethoxy)ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(OCCO)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C29H35NO6
